US07732432B2
Step 1: (11β,16β)-9-fluoro-16-methyl-3,20-dioxo-11,17-bis[(trimethylsilyl)oxy]pregna-1,4-dien-21-yl acetate
To a solution of (11β,16β)-9-fluoro-11,17-dihydroxy-16-methyl-3,20-dioxopregna-1,4-dien-21-yl acetate (18.79 g, 43.25 mmol) and imidazole (58.89 g, 864.9 mmol) in 200 mL of dry N,N-dimethylformamide was added neat trimethylsilyl chloride (55.0 mL, 433 mmol) dropwise during 15 min. The resulting pale yellow solution was stirred at room temperature for 16 hours. The solution was diluted with ethyl acetate and washed successively with water, sat. NH4Cl, water, sat. NaHCO3, water, and brine. The organic phase was dried over Na2SO4, filtered and evaporated in vacuo to yield 26 g of the title compound as a pale yellow oil.

reactant | (11β,16β)-9-fluoro-11,17-dihydroxy-16-methyl-3,20-dioxopregna-1,4-dien-21-yl acetate | 43.25 mmol, 18.79 g | C(C)(=O)OCC([C@]1([C@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]3([C@H](C[C@]12C)O)F)=O)C)O)=O | C24H31FO6
reactant | imidazole | 864.9 mmol, 58.89 g | N1C=NC=C1 | C3H4N2
reactant | trimethylsilyl chloride | 433 mmol, 55.0 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (11β,16β)-9-fluoro-16-methyl-3,20-dioxo-11,17-bis[(trimethylsilyl)oxy]pregna-1,4-dien-21-yl acetate | 26 g | C(C)(=O)OCC([C@]1([C@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]3([C@H](C[C@]12C)O[Si](C)(C)C)F)=O)C)O[Si](C)(C)C)=O | C30H47FO6Si2
